Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]=[C:7]([H:8])[H:9],0.403613502621
[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.11541448559
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:3].[O:1]=[C:2][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],4.41900424077
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.6135335416
[C:5]=[C:6]([H:7])[H:8].[O:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.47920841517
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6],2.05169775159
[C:1]#[C:2][O:3][H:4].[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-3.3392440125200005
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.08804366106
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.26320948811
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-0.134419767531
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5626442299
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.0210755259900015
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.99336929553
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:5][C:6][O:7][C:8]([H:9])[H:10].[H:4],3.99474670335
[C:8][O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-7.1497534609
[H:1][C:2]#[C:3].[O:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.0677226841
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[C:2]([H:3])[O:4][C:5]([H:6])[H:7].[O:1],7.55571056127
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:12]([H:13])([H:14])[H:15].[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-2.8715637536400003
[C:1]#[C:2].[C:3](=[O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.70468528261
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10].[H:6],4.30071707809
[C:1]([H:9])=[C:10]([H:11])[H:12].[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])#[C:8]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.3991573929900003
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.91607011445
[C:15]([H:16])[H:17].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-5.22861439629
[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.73338863616
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.07625283167
[O:1]=[C:2][C:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],-0.40214702452
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:3][H:4],6.09715683174
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]12[C:7]([H:8])[C:9]1[C:10]2([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],1.3756209767899998
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],-0.7342197359899999
[C:1]#[C:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-1.95553548315
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],5.14325283695
